US05401772
3,5-Dimethyl-4-(3'-isopropyl-4'-methoxyphenoxy)-nitrobenzene (6.0 g) and 600 mg of 10% platinum on carbon in 200 ml ethanol are hydrogenated on a Parr shaker. Catalyst is removed by filtration through Celite and the filtrate is stripped to afford 3,5-dimethyl4-(3'-isopropyl-4'-methoxyphenoxy)-aniline.

reactant | 3,5-Dimethyl-4-(3'-isopropyl-4'-methoxyphenoxy)-nitrobenzene | 6.0 g | CC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C)[N+](=O)[O-] | C18H21NO4
catalyst | platinum on carbon | 600 mg | [Pt] | Pt
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3,5-dimethyl4-(3'-isopropyl-4'-methoxyphenoxy)-aniline | CC=1C=C(N)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C | C18H23NO2
